US08212032B2
Step 1: cis-4-[{[(1,1-dimethylethyl)oxy]carbonyl}(methyl)amino)cyclohexanecarboxylic acid
To a suspension of NaH (1.0 g, 41 mmol, 2.5 equiv) in DMF (30 mL) at −10° C. was added cis-4-({[(1,1-dimethylethyl)oxy]carbonyl}amino)cyclohexanecarboxylic acid (4.0 g, 16 mmol, 1.0 equiv). The reaction mixture was allowed to warm to room temperature and then was stirred for 1 h. The mixture was again cooled to −10° C., and MeI (25 g, 260 mmol, 16 equiv) was added dropwise. The cold bath was removed, and the reaction mixture was stirred for 3 h at room temperature. The mixture was poured onto ice, and then NaOH (1.5 g) was added to hydrolyze any undesired methyl ester that formed. This solution was stirred for another 4 hours. The aqueous layer was washed with ethyl acetate and concentrated under reduced pressure to remove the DMF. The resulting residue was diluted with water, and the pH was adjusted to ˜3-4. The desired product precipitated as a white solid which was collected by filtration (2.5 g).

reactant | NaH | 41 mmol, 1.0 g, 2.5 equiv | [H-].[Na+]
reactant | cis-4-({[(1,1-dimethylethyl)oxy]carbonyl}amino)cyclohexanecarboxylic acid | 16 mmol, 4.0 g, 1.0 equiv | CC(C)(C)OC(=O)N[C@H]1CC[C@H](CC1)C(=O)O | C12H21NO4
reactant | MeI | 260 mmol, 25 g, 16 equiv | CI | CH3I
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | cis-4-[{[(1,1-dimethylethyl)oxy]carbonyl}(methyl)amino)cyclohexanecarboxylic acid | CC(C)(C)OC(=O)N([C@H]1CC[C@H](CC1)C(=O)O)C | C13H23NO4
